Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
clonidine / hydrochlorothiazide / lisinopril / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug) / aspirin / Sulfa 
(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
TEE/cardioversion
 
History of Present Illness:
Ms. ___ is a ___ yo with PMH significant for HTN, 
presenting with a week long history of shortness of breath and 
dyspnea on exertion.  On presentation, she denied any chest 
pain, back pain, N/V, abdominal pain, HA, dizziness or 
peripheral edema. She has baseline DOE over the past few years 
and has been limiting her activity because of this.  She had 
been stable over the last few months but a few days ago noted 
increasing DOE.  She is having trouble walking any distance at 
all.  She has been using more of her Albuterol inhaler because 
of this.  She denies any new cough, URI symptoms or 
palpitations.  Other than feeling breathless, she has no other 
symptoms.
 
In the ED, initial vitals were  T 97.2 P ___ BP 123/65 RR 22 
SaO2 93% on RA. While in the ED, around 12:30pm the patient was 
tachycardic to 160.  Her EKG showed atrial fibrillation with 
RVR.  Her blood pressure at that time was stable with SBP of 
102/80 and O2 sats in high ___.  Patient was given 15mg IV 
Diltiazem with improvement in tachycardia to 90.  Her heart rate 
then increased back to about ~150 as the drug washed out.  She 
was given diltiazem 30mg PO.  She was offered outpatient 
management but chose admission.  

On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, hemoptysis, 
black stools or red stools. She denies recent fevers, chills or 
rigors. She has a chronic non-productive cough. She denies 
N/V/D, dysuria. All of the other review of systems were 
negative.  
 
Cardiac review of systems is notable for SOB and DOE as above, 
as well as paroxysmal nocturnal dyspnea and orthopnea. She 
denies chest pain, ankle edema, palpitations, syncope or 
presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS:+ Hypertension, + Hyperlipidemia, - 
Diabetes 
2. CARDIAC HISTORY:  No past cardiac history  
3. OTHER PAST MEDICAL HISTORY:  
OSA on CPAP (with variable compliance)
Asthma 
GERD
Uterine Cancer, s/p TAH BSO and radiation ___, last recorded 
pap ___
Obesity
Lichen Sclerosus et Atrophicus
Insomnia
Intestinal Angiodysplasia
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  

 
Physical Exam:
VS: T=98.2 BP=130/90 HR=120-130 RR=20 O2 sat=94%RA  
General: obese woman, mildly tachypneic whie lying at ~30 
degrees in bed
HEENT: MMM, OP clear   
Neck: No JVD appreciated  
CV: irregularly irregular, tachycardic, nl s1/s2, no murmur 
appreciated 
Lungs: bibasilar crackles
Abdomen: obese, soft, NT/ND
GU: no foley
Ext: warm, significant adipose tissue, no obvious pitting edema 
appreciated  
Neuro: AAOx3, no focal deficit
Skin: no rashes noted 
 
Pertinent Results:
___ 12:45PM BLOOD WBC-15.8* RBC-5.15 Hgb-14.8 Hct-45.9 
MCV-89 MCH-28.8 MCHC-32.3 RDW-14.6 Plt ___
___ 12:45PM BLOOD Neuts-70.4* ___ Monos-5.4 Eos-0.2 
Baso-0.6
___ 01:53PM BLOOD ___ PTT-30.8 ___
___ 05:30AM BLOOD ___ PTT-70.6* ___
___ 12:45PM BLOOD Glucose-116* UreaN-19 Creat-1.0 Na-137 
K-4.9 Cl-100 HCO3-22 AnGap-20
___ 12:45PM BLOOD cTropnT-<0.01
___ 12:45PM BLOOD Calcium-9.6 Phos-3.8 Mg-2.1
___ 12:45PM BLOOD TSH-4.0

___ CHEST X-RAY
FINDINGS:  This examination is underpenetrated, accentuating 
density of the parenchyma. Heart size is mildly enlarged.  Low 
lung volumes accentuate heart size and pulmonary vasculature 
howevere there is no overt fluid overload. Lungs are clear.  
There is no large pleural effusion or pneumothorax. 
  
IMPRESSION:  No cardiopulmonary abnormality on this 
underpenetrated study. 

___ TRANSTHORACIC ECHOCARDIOGRAM
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (?#) appear structurally normal with good leaflet 
excursion. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The pulmonary artery 
systolic pressure could not be determined. There is an anterior 
space which most likely represents a prominent fat pad. 

IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with preserved global biventricular systolic 
function. No valvular pathology or pathologic flow identified.

___ TRANSESOPHAGEAL ECHOCARDIOGRAM
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. There are simple atheroma in 
the descending thoracic aorta. The aortic valve leaflets (3) are 
mildly thickened. There are filamentous strands on the aortic 
leaflets consistent with Lambl's excresences (normal variant). 
No aortic regurgitation is seen. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. 
There is no pericardial effusion. 

IMPRESSION: No intracardiac thrombus. Mild ___ regurgitation. 

  
 
Brief Hospital Course:
___ yo female presenting with dyspnea on exertion found with new 
onset symptomatic Afib with RVR and signs of volume overload.

# New onset Afib w/RVR: Pt presenting with shortness of breath 
and dyspnea on exertion which has acutely worsened over the week 
prior to admission. Pt thought to be in Afib for >48 hours upon 
presentation, outside of the window for cardioversion without 
TEE. Pt describes months of episodic dyspnea on exertion, 
self-treated as asthma with albuterol inhaler, but were perhaps 
possibly ___ paroxysms of Afib. Rate was not controlled on max 
dose diltiazem 15 mg/hr and metoprolol 400mg daily. She was 
bridged with heparin to a therapeutic INR on warfarin and 
underwent TEE/cardioversion with successful converstion to sinus 
rhythm. However, after cardioversion, pt developed >4.5 sec 
sinus pauses and bradycardia to ___. For this reason, she was 
not discharged on a beta blocker. She was set up to have an 
event monitor, with a plan to start low dose metoprolol 
succinate if she no longer has sinus pauses. INR was 3.6 on day 
of discharge; pt was prescribed warfarin 1mg, with instructions 
to hold the warfarin until INR check at ___ 
___ clinic on the day after discharge. 

# sinus pauses: occurred overnight after cardioversion, >4.5 
sec, asymptomatic. Unclear if these pauses occurred while 
patient was lying supine; she was not wearing CPAP at the time. 
Differential includes OSA vs. excessive nodal blockade vs. sick 
sinus syndrome. Pt has a history of non-compliance with CPAP and 
was counseled on the importance of CPAP for preventing sinus 
pauses and ectopy that could re-initiate her atrial 
fibrillation. Betablockade was held as above. Pt observed for 24 
hours while compliant with CPAP and did not have significant 
sinus pauses. She was arranged to have event monitor for ___ 
weeks, and to follow up with Dr. ___ in one month to monitor 
for further sinus pauses while off the beta blocker.

# orthopnea: CXR with vascular congestion. Pt likely with flash 
pulmonary edema ___ tachyarrythmia. Echo showed preserved 
systolic function, suboptimal images, could not comment on PA 
pressure. Given hives to HCTZ, a sulfa-moeity, initially avoided 
lasix in favor of ethacrynic acid, however net even with this 
agent. Ultimately diuresed with lasix IV without skin reaction, 
and orthopnea resolved. Pt still with baseline dyspnea on 
exertion. 

# Leukocytosis: Pt afebrile without focal infection signs. 
Leukocytosis persisted for 3 days; UA positive however culture 
grew mixed flora suggesting fecal contaminant. Leukocytosis 
resolved after removal of foley and 3 day course of ceftriaxone. 


# HTN: Home atenolol and amlodipine held while titrating nodal 
agents. Pt discharged on home dose of amlodipine but held beta 
blockade as above.

# OSA: Patient intermittently uses CPAP at home. Encouraged use 
and educated on importance of CPAP. Pt observed to be compliant 
towards the end of the admission.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
3. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
4. Fluocinonide 0.05% Ointment 1 Appl TP TID:PRN rash 
5. clotrimazole-betamethasone ___ % topical BID 
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze, shortness of 
breath 
7. Omeprazole 20 mg PO BID 
8. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
9. Betamethasone Valerate 0.1% Ointment 1 Appl TP EVERY OTHER 
DAY OR LESS itchy areas 

 
Discharge Medications:
1. Betamethasone Valerate 0.1% Ointment 1 Appl TP EVERY OTHER 
DAY OR LESS itchy areas 
2. Fluocinonide 0.05% Ointment 1 Appl TP TID:PRN rash 
3. Omeprazole 20 mg PO BID 
4. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze, shortness of 
breath 
6. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
7. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
8. clotrimazole-betamethasone ___ % topical BID 
9. Amlodipine 10 mg PO DAILY 
10. Warfarin 1 mg PO DAILY16 
Take as directed by ___ clinic. 
RX *warfarin [Coumadin] 1 mg 1 tablet(s) by mouth as directed 
Disp #*30 Tablet Refills:*0
11. Outpatient Lab Work
Atrial Fibrillation 427.31 
Dr. ___ ___ 
Please check INR on ___.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Fibrillation with RVR, s/p TEE/cardioversion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to take care of you during your stay at ___. 
You came in with shortness of breath and were found to have an 
abnormal fast heart rhythm called atrial fibrillation. We were 
unable to slow down your heart rate with medicines, so we 
scheduled you for an echocardiogram (ultrasound of the heart) 
which showed no clot, and then shocked the heart. This 
successfully converted your heart back to normal rhythm. 

You had a little extra fluid on your body from your heart not 
pumping efficiently while it was in Afib. We diuresed you with 
lasix and will be sending you home a small dose of lasix 20mg to 
take daily at home.

After the conversion, you had some very long pauses of your 
heart beat. Because of this we want you to wear a heart rhythm 
monitor for ___ weeks at home, to make sure you are not having 
more pauses, and also monitor if you go back into Afib. ___ 
___ will be in touch with you about this heart monitor, 
which you will receive at home in the mail within 3 business 
days.

We discussed the importance of wearing your CPAP to prevent 
converting back to Afib, and also to prevent the pauses we 
observed. Talk to your PCP about getting reconnected to a sleep 
center to keep your CPAP machine maintained and make sure you 
have the best-fitting mask.

When people are in atrial fibrillation, they are at risk of 
developing clots in the heart, which can break off and cause a 
stroke. To prevent this risk, you will need to take a blood 
thinner called warfarin, in case you go back into atrial 
fibrillation.  You will have to get your INR (a measure of how 
thin your blood is) checked regularly with the ___ 
clinic at ___ to make sure you are on the right 
dose of warfarin. You should get your INR checked tomorrow, 
___.
 
Followup Instructions:
___